US07250427B2
2-{4-[2-(1-Benzyl-piperidin-4-yl)-ethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide
This compound was prepared using the methods outlined in Example 27, substituting benzaldehyde for p-tolualdehyde and 2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide for 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide. HPLC (Method C): Rt=4.41. MS (ESI+): mass calcd. for C28H30N4O2, 454.24; m/z found, 455.4 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.15 (s, 1H), 8.00 (d, J=8.9 Hz, 2H), 7.91 (d, J=8.5 Hz, 1H), 7.67 (d, J=8.7 Hz, 1H), 7.40 (br m, 5H), 7.12 (d, J=8.8 Hz, 2H), 4.21 (s, 2H), 4.11 (t, J=6.1 Hz, 2H), 3.43-3.40 (m, 2H), 2.95-2.89 (m, 2H), 2.00-1.97 (m, 2H), 1.87-1.78 (m, 1H), 1.78-1.72 (m, 2H), 1.48-1.37 (m, 2H).

reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1CCC(CC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
product | 2-{4-[2-(1-Benzyl-piperidin-4-yl)-ethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide | C(C1=CC=CC=C1)N1CCC(CC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C28H30N4O2
